US07977331B1
To a solution of methyl 4-{bis[2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (401 mg, 0.65 mmol) in tetrahydrofuran (4.0 ml) and methanol (4.0 ml) was added 4N aqueous sodium hydroxide solution (4.0 ml), and the mixture was stirred at room temperature for 12 hr. The reaction mixture was adjusted to pH 6 with 2N hydrochloric acid, and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the mixture was concentrated under reduced pressure, and ethyl acetate was added to the residue. The precipitated solid was collected by filtration to give 4-{bis[2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid. To a solution of the obtained 4-{bis[2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid in chloroform was added 4N HCl-ethyl acetate solution (4.0 ml). The reaction mixture was concentrated under reduced pressure and ethyl acetate was added. The precipitated solid was collected by filtration and dried in vacuo to give 4-{bis[2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid trihydrochloride (338 mg, yield 73%).

reactant | 4-{bis[2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid | N1(CCCCC1)CCN(C1=CC=CC=2C3=C(C4=C(N3CCOC21)C=C(C=C4)C(=O)O)C4CCCCC4)CCN4CCCCC4 | C37H50N4O3
reactant | HCl ethyl acetate | 4N, 4.0 ml | Cl.C(C)(=O)OCC
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-{bis[2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid trihydrochloride | 338 mg, yield 73% | Cl.Cl.Cl.N1(CCCCC1)CCN(C1=CC=CC=2C3=C(C4=C(N3CCOC21)C=C(C=C4)C(=O)O)C4CCCCC4)CCN4CCCCC4 | InChI=1S/C37H50N4O3.3ClH/c42-37(43)29-15-16-30-33(27-29)41-25-26-44-36-31(35(41)34(30)28-11-4-1-5-12-28)13-10-14-32(36)40(23-21-38-17-6-2-7-18-38)24-22-39-19-8-3-9-20-39;;;/h10,13-16,27-28H,1-9,11-12,17-26H2,(H,42,43);3*1H
